US09216992B2
2-Methyl-3-(4-phenyl-thiophen-2-yl)-acryloyl azide
To a solution of (E)-2-methyl-3-(4-phenyl-thiophen-2-yl)-acrylic acid (924 mg, 3.78 mmol) and triethylamine (617 μl, 4.43 mmol) in THF (10 ml) was added diphenylphosphoryl azide (897 μl, 6.27 mmol) at 0° C. The reaction was next stirred for 4 h at room temperature. At which point the contents of the reaction flask were partitioned between ethyl acetate (25 ml) and sodium hydrogencarbonate (25 ml). The organic phase was separated and the solvent removed in vacuo. The crude residue was suspended between methanol (25 ml) and distilled water (25 ml), the precipitate collected and dried (MgSO4) to afford the title compound as a white solid.

reactant | (E)-2-methyl-3-(4-phenyl-thiophen-2-yl)-acrylic acid | 3.78 mmol, 924 mg | C/C(/C(=O)O)=C\C=1SC=C(C1)C1=CC=CC=C1 | C14H12O2S
reactant | triethylamine | 4.43 mmol, 617 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 6.27 mmol, 897 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Methyl-3-(4-phenyl-thiophen-2-yl)-acryloyl azide | CC(C(=O)N=[N+]=[N-])=CC=1SC=C(C1)C1=CC=CC=C1 | C14H11N3OS
